US06759554B2
Cyclohexanecarboxylic acid pyrimidin-5-yl-amide
An oven-dried resealable Schlenk tube containing a stirbar was charged with CuI (20 mg, 0.1 mmol, 10 mol %), cyclohexanecarboxamide (153 mg, 1.2 mmol), 5-bromopyrimidine (160 mg, 1 mmol), and K3PO4 (425 mg, 2 mmol), evacuated and backfilled with argon. N,N′-Dimethylethylenediamine (8.9 mg, 0.1 mmol) and dioxane (1 ml) were injected, and under a flow of argon, the septum was replaced by a Teflon screw cap. The tube was sealed, and the mixture was stirred and heated in an oil bath at 110° C. for 16 h. The contents of the tube were then partitioned between water and dichloromethane. The aqueous layer was separated, and extracted two times with additional dichloromethane. The organics were then combined, dried over Na2SO4, filtered, concentrated under reduced pressure. The residue was chromatographed on silica gel followed by recrystallization from dichloromethane/hexane to give 154 mg (75%) of the title compound as a solid. 1H NMR (CDCl3, 300 MHz): δ 9.02 (s, 2H), 8.97 (s, 1H), 7.40 (br s, 1H), 2.32 (tt, 1H, J=3.6, 11.4 Hz), 2.10−1.20 (m, 10H).

reactant | cyclohexanecarboxamide | 1.2 mmol, 153 mg | C1(CCCCC1)C(=O)N | C7H13NO
reactant | 5-bromopyrimidine | 1 mmol, 160 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | K3PO4 | 2 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-Dimethylethylenediamine | 0.1 mmol, 8.9 mg | CNCCNC | C4H12N2
catalyst | CuI | 0.1 mmol, 20 mg | [Cu]I
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | Cyclohexanecarboxylic acid pyrimidin-5-yl-amide | 154 mg, 75% | N1=CN=CC(=C1)NC(=O)C1CCCCC1 | C11H15N3O
